US09353046B2
Production of 3-Nitro-N-(2-(trifluoromethyl)-4-(heptafluoroisopropyl)phenyl)benzamide
1.1 g (27 mmol) of powdery sodium hydroxide and 1.2 g (4.5 mmol) of iron(II) sulfate heptahydrate were stirred in an ice bath, until the color of the mixture changed to black. Immediately after the discoloration, 5 g of N,N-dimethylformamide were added thereto, and then, a solution obtained by dissolving 1.0 g (3.2 mmol) of 3-nitro-N-(2-(trifluoromethyl)phenyl)benzamide and 1.3 g (4.5 mmol) of heptafluoroisopropyl iodide in 5 g of N,N-dimethylformamide was added thereto, followed by stirring at room temperature for 3 hours. The obtained reaction liquid was filtered through cerite and the residue was washed with 50 mL of ethyl acetate. Then, 40 g of water were added to the resulting reaction liquid, and after performing extraction, the organic layer was dried over magnesium sulfate. Then, magnesium sulfate was filtered off, and the solvent was distilled off under reduced pressure. Thereafter, the condensed residue was purified by silica gel chromatography, to obtain 0.44 g (yield 28%) of the title compound as a red solid.

reactant | sodium hydroxide | 27 mmol, 1.1 g | [OH-].[Na+]
reactant | 3-nitro-N-(2-(trifluoromethyl)phenyl)benzamide | 3.2 mmol, 1.0 g | [N+](=O)([O-])C=1C=C(C(=O)NC2=C(C=CC=C2)C(F)(F)F)C=CC1 | C14H9F3N2O3
reactant | heptafluoroisopropyl iodide | 4.5 mmol, 1.3 g | FC(C(C(F)(F)F)(F)I)(F)F | C3F7I
solvent | N,N-dimethylformamide | 5 g | CN(C=O)C | C3H7NO
catalyst | iron(II) sulfate heptahydrate | 4.5 mmol, 1.2 g | O.O.O.O.O.O.O.S(=O)(=O)([O-])[O-].[Fe+2]
solvent | N,N-dimethylformamide | 5 g | CN(C=O)C | C3H7NO
product | 3-Nitro-N-(2-(trifluoromethyl)-4-(heptafluoroisopropyl)phenyl)benzamide | 0.44 g, yield 28% | [N+](=O)([O-])C=1C=C(C(=O)NC2=C(C=C(C=C2)C(C(F)(F)F)(C(F)(F)F)F)C(F)(F)F)C=CC1 | C17H8F10N2O3
